US04725610
A mixture of 4-bromoacetyl-5-methyl-2-phenyloxazole (7.0 g), p-cyanophenol (3.0 g), potassium carbonate (6.9 g) and methyl ethyl ketone (100 ml) was heated under reflux for 2 hours. The reaction mixture was concentrated under reduced pressure, and water (100 ml)-ether (100 ml) was added to the residue. The mixture was stirred, and the crystals were collected by filtration. Recrystallization from chloroform-ethanol afforded 4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]benzonitrile (6.3 g, 78.8%), as brownish prisms, m.p. 202°-203° C.

reactant | 4-bromoacetyl-5-methyl-2-phenyloxazole | 7.0 g | BrCC(=O)C=1N=C(OC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | p-cyanophenol | 3.0 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]benzonitrile | 6.3 g, 78.8% | CC1=C(N=C(O1)C1=CC=CC=C1)C(COC1=CC=C(C#N)C=C1)=O | C19H14N2O3
